US07915424B2
3-Methyl-5-phenylethynylpyridine hydrochloride
Add a 4 N solution of hydrogen chloride in 1,4-dioxane (0.6 mL) to a solution of 3-methyl-5-phenylethynylpyridine (0.398 g, 2.06 mmol), (prepared essentially as described in EXAMPLE 1), in diethyl ether (2 mL). Concentrate the reaction mixture and triturate the resulting solid with hexanes and diethyl ether to give the title compound as a solid (0.477 mg, 100%).

reactant | hydrogen chloride | Cl | ClH
reactant | 3-methyl-5-phenylethynylpyridine | 2.06 mmol, 0.398 g | CC=1C=NC=C(C1)C#CC1=CC=CC=C1 | C14H11N
solvent | 1,4-dioxane | 0.6 mL | O1CCOCC1 | C4H8O2
solvent | diethyl ether | 2 mL | C(C)OCC | C4H10O
product | 3-Methyl-5-phenylethynylpyridine hydrochloride | 0.477 mg, 100% | Cl.CC=1C=NC=C(C1)C#CC1=CC=CC=C1 | InChI=1S/C14H11N.ClH/c1-12-9-14(11-15-10-12)8-7-13-5-3-2-4-6-13;/h2-6,9-11H,1H3;1H
